US06489344B1
4-[3-imidazolyl-6-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)-2-pyridyl]benzenecarbonitrile was prepared from 4-cyanophenacyl bromide, CAN for the oxidation (1:1 acetic acid and water with heating at 80° C. for 1 hour), and 2-chloro-5-nitropyridine using the general method for {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-imidazolyl(2-pyridyl)]amine.

reactant | 4-cyanophenacyl bromide | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
reactant | CAN | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-imidazolyl(2-pyridyl)]amine | NC1=C(C=CC(=N1)NCCNC1=NC(=C(C=C1)C=1NC=CN1)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C21H18Cl2N8O2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[3-imidazolyl-6-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)-2-pyridyl]benzenecarbonitrile | N1C(=NC=C1)C=1C(=NC(=CC1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C#N | C22H18N8O2
